US08877751B2
Preparation of 5-chloro-3-[3-(5-methyl-1,2,4-oxadiazol-3-yl)benzyl]-3H-benzothiazol-2-one (“A12”)
A suspension of 100 mg (0.54 mmol) of 5-chloro-3H-benzothiazol-2-one, 153 mg (0.59 mmol) of 3-(3-bromomethylphenyl)-5-methyl-1,2,4-oxadiazole and 303 mg (2.16 mmol) of potassium carbonate in 20 ml of acetonitrile are stirred at 80° C. for 1 h. 30 ml of water are added to the reaction mixture, which is then extracted with MTBE, dried and evaporated to dryness. The crude product is purified by column chromatography on silica gel and stirred with ether, giving “A12”: ESI: 358 (M+H); Rt.=3.25 min (method A);

reactant | 5-chloro-3H-benzothiazol-2-one | 0.54 mmol, 100 mg | ClC=1C=CC2=C(NC(S2)=O)C1 | C7H4ClNOS
reactant | 3-(3-bromomethylphenyl)-5-methyl-1,2,4-oxadiazole | 0.59 mmol, 153 mg | BrCC=1C=C(C=CC1)C1=NOC(=N1)C | C10H9BrN2O
reactant | potassium carbonate | 2.16 mmol, 303 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-chloro-3-[3-(5-methyl-1,2,4-oxadiazol-3-yl)benzyl]-3H-benzothiazol-2-one | ClC=1C=CC2=C(N(C(S2)=O)CC2=CC(=CC=C2)C2=NOC(=N2)C)C1 | C17H12ClN3O2S
